### PR TITLE
Prove `decode_set_sched_params_corres`

### PR DESCRIPTION
**Pull request by pierzchalski**
Also involves some uninteresting spec updates to make the corres proof easier.
* Changes `decode_update_sc` to return just the updated SC parameter (rather than a whole invocation from which we just extract the SC parameter anyway), and changes it to use pattern matching rather than chained checks - this is both easier to read and matches the Haskell and C.
* Removes `andM` from `decodeSetSchedParams`. Turns out reasoning about corres for `andM` is really, _really_ fiddly - I spent at least a day trying to figure out how to prove and use `monadic_rewrite` rules to massage it into a better form before bailing.

### CODE REVIEW

**Comment by pierzchalski** [comment]
[Testboard](https://bamboo.ts.data61.csiro.au/browse/L4V-TESTBOARD-662).

File: proof/refine/ARM/Tcb_R.thy [hunk 1]
```diff
@@ -2791,29 +2791,223 @@ lemma decodeSetSchedParams_wf[wp]:
...
+             apply (clarsimp simp: get_tcb_obj_ref_def)
+             apply (rule corres_split_eqrE)
+                apply (rule whenE_throwError_corres; clarsimp)
+                apply (rule corres_split_liftEE[OF get_sc_corres])
+                  apply (rule whenE_throwError_corres; clarsimp simp: sc_relation_def)
+                  apply (rule corres_split_liftEE[OF is_blocked_corres])
+                    apply (rule corres_split_liftEE[OF get_sc_released_corres])
+                      apply (rule whenE_throwError_corres; clarsimp)
+                      apply (rule corres_returnOkTT, simp)
+                     apply wpsimp
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Tcb_R.thy:2979]: Nitpick: here and earlier in the file, should probably combine long sequences of repeated `wpsimp` or `wpsimp wp: single_lemma` into `(wpsimp wp: all_lemmas)+`. I don't mind the style you've used, but I've been told not to do it.

**Review by MitchellBuckley — APPROVED** [review]
I like the generic lemmas you've added at the beginning. And the style looks good. I haven't examined the spec-change deeply, but the result looks good at a short glance.

**Comment by mktnk3** [comment]
Please give a good description of the PR, particularly about the spec updates. We have been somehow lazy about this recently, but it would be good to get back to the habit of writing things up properly/sufficiently for even every little occasion like this. (And for this time, yes, also in case if anything needs to be dealt with later...)

File: proof/refine/ARM/Tcb_R.thy [hunk 2]
```diff
@@ -2791,29 +2791,205 @@ lemma decodeSetSchedParams_wf[wp]:
...
 lemma decode_set_sched_params_corres:
   "\<lbrakk> cap_relation cap cap'; is_thread_cap cap; slot' = cte_map slot;
      list_all2 (\<lambda>(c, sl) (c', sl'). cap_relation c c' \<and> sl' = cte_map sl) extras extras' \<rbrakk> \<Longrightarrow>
    corres (ser \<oplus> tcbinv_relation)
-       (cur_tcb and valid_etcbs and (\<lambda>s. \<forall>x \<in> set extras. s \<turnstile> (fst x)))
-       (invs' and (\<lambda>s. \<forall>x \<in> set extras'. s \<turnstile>' (fst x)))
+       \<comment>\<open> FIXME RT: is \<lambda>s. s \<turnstile> cap too strong a precondition? It looks like
+           decode_set_sched_params is a rare decoder that needs to peek into the state of the
+           target object, so maybe it *is* fine. \<close>
+       \<comment>\<open> FIXME RT: should valid_sched come from invs? \<close>
```
Comment (corlewis) [inline proof/refine/ARM/Tcb_R.thy:2935]: No, what you have is fine. You would need `einvs` to get `valid_sched`.

File: proof/refine/ARM/Tcb_R.thy [hunk 3]
```diff
@@ -2791,29 +2791,205 @@ lemma decodeSetSchedParams_wf[wp]:
...
+lemma cap_rel_valid_fh:
+  "cap_relation a b \<Longrightarrow> valid_fault_handler a = isValidFaultHandler b"
+  apply (case_tac a
+         ; case_tac b
+         ; simp add: valid_fault_handler_def isValidFaultHandler_def)
+  apply (rule iffI
+         ; clarsimp simp: has_handler_rights_def split: bool.split_asm)
+  done
+
+(* FIXME RT: move to...? *)
```
Comment (corlewis) [inline proof/refine/ARM/Tcb_R.thy:2804]: I guess Corres_UL? There's some similar lemmas in Corres_Method, but they involve the protected `corres_underlyingK`.

File: proof/refine/ARM/Tcb_R.thy [hunk 4]
```diff
@@ -2791,29 +2791,205 @@ lemma decodeSetSchedParams_wf[wp]:
...
+  shows "corres_underlying sr nf nf' (r \<oplus> s) (P and Q) (P' and Q')
+             (liftE a >>=E b) (liftE c >>=E d)"
+  apply (insert assms)
+  apply (rule corres_initial_splitE; clarsimp?)
+     apply (erule corres_guard_imp; clarsimp)
+    apply fastforce
+   apply (rule hoare_weaken_pre; fastforce)+
+  done
+
+(* FIXME RT: move to...? *)
```
Comment (corlewis) [inline proof/refine/ARM/Tcb_R.thy:2820]: Maybe NonDetMonadLemmaBucket?

File: proof/refine/ARM/Tcb_R.thy [hunk 5]
```diff
@@ -2791,29 +2791,205 @@ lemma decodeSetSchedParams_wf[wp]:
...
+
 lemma decode_set_sched_params_corres:
   "\<lbrakk> cap_relation cap cap'; is_thread_cap cap; slot' = cte_map slot;
      list_all2 (\<lambda>(c, sl) (c', sl'). cap_relation c c' \<and> sl' = cte_map sl) extras extras' \<rbrakk> \<Longrightarrow>
    corres (ser \<oplus> tcbinv_relation)
-       (cur_tcb and valid_etcbs and (\<lambda>s. \<forall>x \<in> set extras. s \<turnstile> (fst x)))
-       (invs' and (\<lambda>s. \<forall>x \<in> set extras'. s \<turnstile>' (fst x)))
+       \<comment>\<open> FIXME RT: is \<lambda>s. s \<turnstile> cap too strong a precondition? It looks like
+           decode_set_sched_params is a rare decoder that needs to peek into the state of the
+           target object, so maybe it *is* fine. \<close>
```
Comment (corlewis) [inline proof/refine/ARM/Tcb_R.thy:2934]: Seems fine to me, you should be able to show `valid_cap` where this is called.

**Review by corlewis — APPROVED** [review]
Looks great, and I really like the spec changes!

File: proof/refine/ARM/Tcb_R.thy [hunk 6]
```diff
@@ -2791,29 +2791,205 @@ lemma decodeSetSchedParams_wf[wp]:
...
+   apply (clarsimp simp: obj_at_def sc_at_pred_n_def)
+  apply clarsimp
+  done
+
+(* FIXME RT: move to...? *)
+crunches scReleased
+  for inv: P
+
+(* FIXME RT: it's weird and sad that this is necessary. Can we replace this with something more
+             generic?  *)
```
Comment (mktnk3) [inline proof/refine/ARM/Tcb_R.thy:2902]: Can you say a bit more why we need this to start with? Is it because of the scheduling context size being different from other sizes?

Also, are `sc` and `sc’` below functions? If so, that would be rather unconventional and potentially confusing?

**Review by mktnk3 — APPROVED** [review]
Cool, thanks a lot for finishing this off, Ed!

File: proof/refine/ARM/Tcb_R.thy [hunk 7]
```diff
@@ -2791,29 +2791,205 @@ lemma decodeSetSchedParams_wf[wp]:
...
+      apply (rule corres_split[OF _ corres_gets_trivial, simplified])
+         apply (rule corres_symb_exec_r[OF _ get_sc_sp'])
+           apply (rename_tac sc sc' n cur_time cur_time' sc2')
+           apply (rule_tac P="active_sc_valid_refills and sc_at_pred ((=) sc) sc_ptr"
+                           and P'="valid_objs' and ko_at' sc' sc_ptr and ko_at' sc2' sc_ptr"
+                           in corres_return[THEN iffD2, rule_format])
+           apply (clarsimp simp: refill_sufficient_def refill_capacity_def refill_ready_def
+                                 kernelWCETTicks_def)
+           apply normalise_obj_at'
+           apply (frule(1) sc_ko_at_valid_objs_valid_sc')
```
Comment (mktnk3) [inline proof/refine/ARM/Tcb_R.thy:2869]: a space after `frule`? several more of the same in the rest of this proof.

**Comment by pierzchalski** [comment]
[Testboard.](https://bamboo.ts.data61.csiro.au/browse/L4V-TESTBOARD-664)
